US07795262B2
Step 2. Preparation of ethyl 1,7-naphthyridine-3-carboxylate
A mixture of tert-butyl 4-formylpyridin-3-ylcarbamate (1.7 g, 7.65 mmol), ethyl 3-ethoxyacrylate (1.27 g, 8.8 mmol) and TFA (5.9 mL, 76.5 mmol) in CHCl3 (30 mL) is heated at reflux for 4 hr. The mixture is cooled and the solvent is removed in vacuo. The residue is dissolved in EtOAc (30 mL) and washed with saturated NaHCO3 solution (20 mL). The organic layer is dried and evaporated. Purification of the residue with flash column with hexane/EtOAc (2:1) gives the title compound as a white solid. MS (M+1): 203.1.

reactant | tert-butyl 4-formylpyridin-3-ylcarbamate | 7.65 mmol, 1.7 g | C(=O)C1=C(C=NC=C1)NC(OC(C)(C)C)=O | C11H14N2O3
reactant | ethyl 3-ethoxyacrylate | 8.8 mmol, 1.27 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | TFA | 76.5 mmol, 5.9 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1,7-naphthyridine-3-carboxylate | N1=CC(=CC2=CC=NC=C12)C(=O)OCC | C11H10N2O2
